US07985885B2
On the other hand, to another 100 ml Schlenk reaction vessel were added under a nitrogen atmosphere 85 mg (0.255 mmol) of 2-bromo-3-iodonaphthalene synthesized in Synthetic Example 2 and 2.0 ml of THF. The solution was cooled to −65° C. and 0.34 ml (0.27 mmol) of a THF solution of isopropylmagnesium bromide (manufactured by Tokyo Chemical Industry Co. Ltd., 0.80M) was added dropwise. After 30 minutes of aging, 33 mg (0.32 mmol) of trimethyl borate (manufactured by Wako Pure Chemical Industries, Ltd.) was added dropwise at the temperature. After the temperature was gradually raised to room temperature, 3N hydrochloric acid was added and phase separation was conducted. The organic phase was concentrated under reduced pressure to obtain 3-bromo-2-naphthylboronic acid as a residue. To the resulting white solid were added the intermediate obtained in the above, 15 mg (0.013 mmol) of tetrakis(triphenylphosphine)palladium (manufactured by Tokyo Chemical Industry Co. Ltd.), 2.2 ml of toluene, and 0.5 ml of ethanol. A solution composed of 148 mg (1.39 mmol) of sodium carbonate and 0.7 ml of water was further added and the mixture was subjected to a reaction at 85° C. for 5 hours. After cooling to room temperature, toluene and an aqueous sodium chloride solution were added and phase separation was conducted. The organic phase was washed with aqueous sodium chloride solution. The organic phase was concentrated under reduced pressure and the solvent was removed by distillation, followed by further heating and drying under vacuum. The obtained residue was dissolved in toluene and a 70% tert-butyl hydroperoxide solution (manufactured by Wako Pure Chemical Industries, Ltd.) (0.04 ml) was added thereto, followed by 2 hours of stirring at room temperature. The solution was washed with water and then the organic phase was concentrated under reduced pressure. The residue was dissolved in hexane and chloroform and the solution was passed through a column packed with silica gel. The elute was concentrated under reduced pressure and the resulting crude solid was washed with hexane to obtain the objective compound (103 mg, yield 54.0%).

reactant | 2-bromo-3-iodonaphthalene | 0.255 mmol, 85 mg | BrC1=CC2=CC=CC=C2C=C1I | C10H6BrI
reactant | isopropylmagnesium bromide | 0.80M | C(C)(C)[Mg]Br
reactant | trimethyl borate | 0.32 mmol, 33 mg | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 0.27 mmol, 0.34 ml | C1CCOC1 | C4H8O
product | 3-bromo-2-naphthylboronic acid | BrC=1C(=CC2=CC=CC=C2C1)B(O)O | C10H8BBrO2
